US08975254B2
(S)—N-{2-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-1-isopropyl-2-methyl-1H-imidazole-4-carboxamide
The title compound was prepared using the method of Example 253 starting from (S)—N-{2-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-2-methyl-1H-imidazole-4-carboxamide and 2-iodopropane. 1H NMR (400 MHz, CDCl3): 1.42 (31-1, d), 1.43 (3H, d), 1.60 (3H, d), 2.37 (3H, s), 3.77 (1H, m), 3.88 (1H, m), 4.28 (1H, m), 4.63 (1H, m), 6.58 (1H, d), 7.50 (1H, d), 7.51 (1H, t), 7.59 (1H, s), 7.66 (1H, d), 7.84 (1H, dd), 8.00 (1H, d).

reactant | (S)—N-{2-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@H](CNC(=O)C=1N=C(NC1)C)C | C18H17ClN6O
reactant | 2-iodopropane | IC(C)C | C3H7I
product | (S)—N-{2-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propyl}-1-isopropyl-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@H](CNC(=O)C=1N=C(N(C1)C(C)C)C)C | C21H23ClN6O
